US05273982
N-(t-butoxycarbonyl)-2-phenyl-β-alanine was heated to reflux in acetone with benzyl bromide and potassium carbonate for 17 hours to yield DL-N-(t-butoxycarbonyl)-2-phenyl-β-alanine benzyl ester, m.p. 58°-59° C.

reactant | N-(t-butoxycarbonyl)-2-phenyl-β-alanine | C(C)(C)(C)OC(=O)NCC(C(=O)O)C1=CC=CC=C1 | C14H19NO4
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | N-(t-butoxycarbonyl)-2-phenyl-β-alanine benzyl ester | C(C1=CC=CC=C1)OC(C(CNC(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C21H25NO4
